US07947834B2
0.25 g of 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline, 8.1 ml of dichloromethane and 0.5 ml of diisopropylethylamine are placed in a 50 ml round-bottomed flask under a nitrogen atmosphere. 0.12 g of triphosgene is added at 0° C. and then the reaction mixture is left stirring at ambient temperature for one and a half hours. 0.5 ml of diisopropylethylamine and 2.03 ml of a 2N solution of dimethylamine in tetrahydrofuran are subsequently added and the reaction mixture is stirred for eighteen hours. Water is added and then the aqueous phase is extracted three times with dichloromethane. The organic phases are combined and dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane/methanol 90/10 mixture. 0.22 g of N,N-dimethyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxamide is obtained.

reactant | 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 0.25 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCNC2=CC=CC=C12 | C18H20N4O
reactant | diisopropylethylamine | 0.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.12 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 0.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | dichloromethane | 8.1 ml | ClCCl | CH2Cl2
product | N,N-dimethyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxamide | 0.22 g | CN(C(=O)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1)C | C21H25N5O2
